US06826033B2
To a solution of tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-((2S)-2-hydroxy-3-phenoxypropyl)carbamate (200 mg) in 1,2-dichloroethane (2.0 ml) was added N,O-bis(trimethylsilyl)acetamide (119 μl) at room temperature and the solution was stirred for 30 minutes. To the solution was added successively ethyl 2-isocyanatobenzoate (110 mg) and N,N-diisopropylethylamine (8.36 μl) and the mixture was stirred for 2 hours. The reaction mixture was diluted with ethyl acetate (20 ml) and washed with water (20 ml×1) and brine (20 ml×1) successively, dried over magnesium sulfate, and evaporated to give a pale yellow foam. The crude product was purified by a recycling preparative high pressure liquid chromatography equipped with a gel permeation chromatography column (eluent: chloroform) and silica gel chromatography (eluent: hexane/ethyl acetate=2/1) to give ethyl 2-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-((2S)-2-hydroxy-3-phenoxypropyl)amino]-3-[(trimethylsilyl)oxy]propyl]phenyl]amino]carbonyl]amino]-benzoate (217 mg) as a white foam.

reactant | tert-butyl N-[(1S)-1-(4-aminobenzyl)-2-hydroxyethyl]-N-((2S)-2-hydroxy-3-phenoxypropyl)carbamate | 200 mg | NC1=CC=C(C[C@@H](CO)N(C(OC(C)(C)C)=O)C[C@@H](COC2=CC=CC=C2)O)C=C1 | C23H32N2O5
reactant | N,O-bis(trimethylsilyl)acetamide | 119 μl | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | ethyl 2-isocyanatobenzoate | 110 mg | N(=C=O)C1=C(C(=O)OCC)C=CC=C1 | C10H9NO3
reactant | N,N-diisopropylethylamine | 8.36 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 2.0 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-((2S)-2-hydroxy-3-phenoxypropyl)amino]-3-[(trimethylsilyl)oxy]propyl]phenyl]amino]carbonyl]amino]-benzoate | 217 mg | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NC1=C(C(=O)OCC)C=CC=C1)CO[Si](C)(C)C | C36H49N3O8Si
